US09260412B2
Preparation of methyl 1-benzyl-5-cyclopropyl-1H-pyrazole-3-carboxylate
2.57 g of methyl 1-benzyl-5-{[(trifluoromethyl)sulfonyl]oxy}-1H-pyrazole-3-carboxylate (7.06 mmol, 1.0 eq.) were dissolved in 51 mL of dry 1,2-dimethoxyethane under nitrogen atmosphere. 1.52 g of cyclopropylboronic acid (17.6 mmol, 2.5 eq.), 2.62 g of sodium carbonate (24.7 mmol, 3.5 eq.) and 408 mg of tetrakis(triphenylphosphin)palladium(0) (0.353 mmol, 0.05 eq.) were added and the mixture was stirred for 24 hours at 75° C. bath temperature. Then the mixture was filtered off and washed with ethyl acetate. The filtrate was concentrated in vacuo and the residue purified by flash chromatography to give 1.61 g (5.39 mmol, 76%) of analytically pure target compound.

reactant | methyl 1-benzyl-5-{[(trifluoromethyl)sulfonyl]oxy}-1H-pyrazole-3-carboxylate | 7.06 mmol, 2.57 g, 1.0 eq. | C(C1=CC=CC=C1)N1N=C(C=C1OS(=O)(=O)C(F)(F)F)C(=O)OC | C13H11F3N2O5S
reactant | cyclopropylboronic acid | 17.6 mmol, 1.52 g, 2.5 eq. | C1(CC1)B(O)O | C3H7BO2
reactant | sodium carbonate | 24.7 mmol, 2.62 g, 3.5 eq. | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 51 mL | COCCOC | C4H10O2
product | methyl 1-benzyl-5-cyclopropyl-1H-pyrazole-3-carboxylate | C(C1=CC=CC=C1)N1N=C(C=C1C1CC1)C(=O)OC | C15H16N2O2
